US03953520
A solution of 24.8 g. (0.20 mole) of thioanisole in 180 ml. of ethylene dichloride was cooled to -5°C in an ice-methanol bath. 48 Ml. (83.6 g., 0.44 mole) of titanium tetrachloride was added dropwise over 15 minutes while maintaining the temperature at 0°-5°C. Another 10 ml. of ethylene dichloride was employed to wash forward the last quantities of titanium tetrachloride. The solution was cooled to -5°C again and 16.8 g. (0.22 mole) of methylal was added over 15 minutes while holding the temperature at 0-5°C. The reaction was stirred for 24 hours at 0-5°C and was quenched in 250 g. of ice. The organic layer was separated and the aqueous layer was extracted with 2 × 100 ml. of ethylene dichloride. The combined organic layers were dried over anhydrous magnesium sulfate and concentrated in vacuo at 50°-60°C to give 31.6 g. of crude product. Quantitative vpc analysis showed the product to contain a 64% yield of p-methylthiobenzyl chloride and a 5% yield of the ortho isomer.

reactant | thioanisole | 0.20 mole | C1(=CC=CC=C1)SC | C7H8S
reactant | methylal | 0.22 mole | COCOC | C3H8O2
reactant | ethylene dichloride | C(CCl)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 0.44 mole, 83.6 g | [Ti](Cl)(Cl)(Cl)Cl
product | p-methylthiobenzyl chloride | 64% yield | CSC1=CC=C(CCl)C=C1 | C8H9ClS
